data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(Br)cc1)C1C2CCC1C2", "products": "[O][C](c1ccc(Br)cc1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(Br)cc1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(Br)cc1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(Br)cc1", "products": "OC(=CC1C=CCC1)c1ccc(Br)cc1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(Br)cc1", "products": "O=C(CC1C=CCC1)c1ccc(Br)cc1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(Cl)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cccc(Cl)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cccc(Cl)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(Cl)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cccc(Cl)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(Cl)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cccc(Cl)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cccc(Cl)c1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cccc(Cl)c1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cccc(Cl)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cccc(Cl)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cccc(Cl)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cccc(Cl)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cccc(Cl)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cccc(Cl)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cccc(Cl)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1F", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1F"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1F", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1F", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1F"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC(C)c1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1.[H+]", "products": "CC(C)c1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1"}, {"reactants": "CC(C)c1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "CC(C)c1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1.O"}, {"reactants": "CC(C)c1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "C[C+]1C2(c3ccc(C(C)C)cc3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(C(C)C)cc3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(C(C)C)cc2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C(C)C)cc2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C(C)C)cc2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C(C)C)cc2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(C(C)C)cc2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(C(C)C)cc2)CCC(C(=O)O)C1(C)C", "products": "CC(C)c1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1"}, {"reactants": "CC(C)c1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1", "products": "CC(C)c1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(Cl)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1cc(Cl)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1cc(Cl)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(Cl)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1cc(Cl)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(Cl)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1cc(Cl)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1cc(Cl)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1cc(Cl)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1cc(Cl)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1cc(Cl)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1cc(Cl)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1cc(Cl)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1cc(Cl)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1cc(Cl)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1cc(Cl)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(Cl)cc(C(=O)C2C3CCC2C3)c1", "products": "COc1cc(Cl)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1cc(Cl)cc([C]([O])C2C3CCC2C3)c1", "products": "COc1cc(Cl)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1cc(Cl)cc(C([O])=CC2C[CH]CC2)c1", "products": "COc1cc(Cl)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1cc(Cl)cc(C(O)=CC2C=CCC2)c1", "products": "COc1cc(Cl)cc(C(=O)CC2C=CCC2)c1"}]}
